US08207134B2
11) Synthesis of (3′R,4′S,5′S,6′R,7S)-1-[(4-ethylphenyl)methyl]-6′-hydroxymethyl-3′,4′,5′,6′-tetrahydro-spiro[furo[3,4,f]indole-7(5H),2′-[2H]pyran]-3′,4′,5′ triol
To a solution of (3′R,4′S,5′S,6′R,7S)-3′,4′,5′-tris-benzyloxy-6′-benzyloxymethyl-1-[(4-ethylphenyl)methyl]-3′,4′,5′,6′-tetrahydro-spiro[furo[3,4,f]indole-7(5H),2′-[2H]pyran] (43 mg, 0.055 mmol) in methanol (1 mL) and THF (1 mL) was added with 10% palladium on carbon (41 mg). The resultant solution was stirred under a hydrogen atmosphere for 1 hour at room temperature, and the catalyst was then filtered off. Solvent was then removed by distillation under reduced pressure, and the resulting residue was purified by silica gel column chromatography (developing solution=dichloromethane:methanol (10:1)), to thereby obtain the titled compound (10 mg, 43%).

reactant | (3′R,4′S,5′S,6′R,7S)-3′,4′,5′-tris-benzyloxy-6′-benzyloxymethyl-1-[(4-ethylphenyl)methyl]-3′,4′,5′,6′-tetrahydro-spiro[furo[3,4,f]indole-7(5H),2′-[2H]pyran] | 0.055 mmol, 43 mg | C(C1=CC=CC=C1)O[C@H]1[C@]2(O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)OCC=1C=C3C=CN(C3=CC12)CC1=CC=C(C=C1)CC | C52H51NO6
solvent | methanol | 1 mL | CO | CH4O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 41 mg | [Pd] | Pd
product | (3′R,4′S,5′S,6′R,7S)-1-[(4-ethylphenyl)methyl]-6′-hydroxymethyl-3′,4′,5′,6′-tetrahydro-spiro[furo[3,4,f]indole-7(5H),2′-[2H]pyran]-3′,4′,5′ triol | 10 mg, 43% | C(C)C1=CC=C(C=C1)CN1C=CC2=CC3=C(C=C12)[C@@]1(O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)OC3 | C24H27NO6
